US08138377B2
G. Synthesis of N,N-dimethyl-5-p-tolyl-bicyclo[3.1.0]hexan-2-amine hydrochloride
The mixture of 5-p-tolyl-bicyclo[3.1.0]hexan-2-one (100 mg, 0.535 mmol) in DCE (3 mL) and dimethylamine (2M solution in THF, 6 mL, 5.3 mmol) was treated with sodium triacetoxyborohydride (113 mg, 0.53 mmol) at room temperature. The reaction mixture was stirred for 5 h, then the reaction mixture was concentrated, diluted with saturated NaHCO3, extracted with CH2Cl2 (3×), dried over K2CO3, filtered and concentrated in vacuo. The oily crude residue was converted to HCl salt (124 mg, 91.7%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.16 (t, 1 H) 1.73-1.80 (m, 1 H) 1.90-1.95 (m, 1 H) 2.01-2.21 (m, 3 H) 2.33-2.38 (m, 1 H) 2.81 (d, 2 H) 2.91 (d, 3 H) 3.70-3.84 (m, 1 H) 7.01-7.13 (m, 4 H). 13C NMR (400 MHz, CHLOROFORM-d) d ppm 15.70 (s, 1 C) 21.20 (s, 1 C) 24.79 (s, 1 C) 25.82 (s, 1 C) 31.66 (s, 1 C) 33.81 (s, 1 C) 43.55 (s, 1 C) 43.69 (s, 1 C) 70.51 (s, 1 C) 126.70 (s, 2C) 129.38 (s, 2C) 136.31 (s, 1C) 139.58 (s, 1 C). MS (M+1) 216.

reactant | 5-p-tolyl-bicyclo[3.1.0]hexan-2-one | 0.535 mmol, 100 mg | C1(=CC=C(C=C1)C12CCC(C2C1)=O)C | C13H14O
reactant | dimethylamine | 5.3 mmol, 2M, 6 mL | CNC | C2H7N
reactant | sodium triacetoxyborohydride | 0.53 mmol, 113 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCE | 3 mL | ClCCCl | C2H4Cl2
product | N,N-dimethyl-5-p-tolyl-bicyclo[3.1.0]hexan-2-amine hydrochloride | Cl.CN(C1C2CC2(CC1)C1=CC=C(C=C1)C)C | InChI=1S/C15H21N.ClH/c1-11-4-6-12(7-5-11)15-9-8-14(16(2)3)13(15)10-15;/h4-7,13-14H,8-10H2,1-3H3;1H
